US07645776B2
(R)-2-{[Hydroxyimino-(4-methoxy-phenyl)-methyl]-carbamoyl}-piperidine-1-carboxylic acid tert-butyl ester
23 mg (0.1 mmol) of Boc-D-Pipecolic Acid were treated with 0.1 mmol [Dimethylamino-([1,2,3]triazolo[4,5-b]pyridin-3-yloxy)-methylene]-dimethyl-ammonium hexafluorophosphate (HATU) and Diisopropylamine (DIPEA) in 1 ml Dimethylforamide (DMF) for 10 min. 17 mg (0.1 mmol) of N-Hydroxy-4-methoxy-benzamidine were added and the reaction stirred at room temperature for 20 min. The product was not further characterized.

reactant | Boc-D-Pipecolic Acid | 0.1 mmol, 23 mg | CC(C)(C)OC(=O)N1CCCC[C@@H]1C(=O)O | C11H19NO4
reactant | [Dimethylamino-([1,2,3]triazolo[4,5-b]pyridin-3-yloxy)-methylene]-dimethyl-ammonium hexafluorophosphate | 0.1 mmol | F[P-](F)(F)(F)(F)F.CN(C)C(ON1N=NC=2C1=NC=CC2)=[N+](C)C
reactant | Diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | N-Hydroxy-4-methoxy-benzamidine | 0.1 mmol, 17 mg | ONC(C1=CC=C(C=C1)OC)=N | C8H10N2O2
solvent | Dimethylforamide | 1 ml | CN(C=O)C | C3H7NO
product | (R)-2-{[Hydroxyimino-(4-methoxy-phenyl)-methyl]-carbamoyl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](CCCC1)C(NC(C1=CC=C(C=C1)OC)=NO)=O | C19H27N3O5
